US08530491B2
d) 2,4-diamino-6-ethyl-5-(3-(7-fluoro-2-methylquinolin-4-yloxy)propoxy)pyrimidine monohydrochloride
To a stirring suspension of 2,4-diamino-6-ethyl-5-(3-(7-fluoro-2-methylquinolin-4-yloxy)propoxy)pyrimidine (0.3714 g, 1 mmol) in methanol (10 mL) was added one equivalent of hydrochloric acid at 25° C. After evaporation of solvent and trituration with diethyl ether, product was obtained as white crystalline solid (0.3834 g, 94%). m.p. >200° C., 1H NMR (400 MHz, DMSO-d6): 0.99 (3H, t, J=7.6 Hz), 2.35 (2H, m), 2.44 (2H, q, J=7.6 Hz), 2.64 (3H, s), 3.97 (2H, t, J=5.8 Hz), 4.45 (2H, t, J=5.5 Hz), 7.07 (1H, s), 7.45 (3H, m), 7.64 (1H, d, J=10.5 Hz), 7.90 (1H, bs), 8.19 (1H, dd, J=8.9, 6.3 Hz), 8.33 (1H, bs), 12.30 (1H, bs).

reactant | 2,4-diamino-6-ethyl-5-(3-(7-fluoro-2-methylquinolin-4-yloxy)propoxy)pyrimidine | 1 mmol, 0.3714 g | NC1=NC(=C(C(=N1)N)OCCCOC1=CC(=NC2=CC(=CC=C12)F)C)CC | C19H22FN5O2
reactant | hydrochloric acid | one equivalent | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 2,4-diamino-6-ethyl-5-(3-(7-fluoro-2-methylquinolin-4-yloxy)propoxy)pyrimidine monohydrochloride | 0.3834 g, 94% | Cl.NC1=NC(=C(C(=N1)N)OCCCOC1=CC(=NC2=CC(=CC=C12)F)C)CC | InChI=1S/C19H22FN5O2.ClH/c1-3-14-17(18(21)25-19(22)24-14)27-8-4-7-26-16-9-11(2)23-15-10-12(20)5-6-13(15)16;/h5-6,9-10H,3-4,7-8H2,1-2H3,(H4,21,22,24,25);1H
